US06350892B1
(2S, 4S)-1-N-Dodecyl-4-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]pyrrolidine-2-propanoic Acid, Methyl Ester
(2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]pyrrolidine-2-propanoic acid, methyl ester (150 mg, 0.276 mmol) was oxidized as described in the preparation of 4-[N-dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester and afforded the title compound (70 mg, 47%) as a pale yellow oil. [a]D=−35.7° (c 0.84, CDCl3) Treatment of the above free amine with anhydrous hydrogen chloride (1.0 M in ether) gave the hydrochloride salt as a pale yellow foam.

reactant | (2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]pyrrolidine-2-propanoic acid, methyl ester | 0.276 mmol, 150 mg | C(CCCCCCCCCCC)N1[C@H](C[C@@H](C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)O)CCC(=O)OC | C30H48F3NO4
reactant | 4-[N-dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
product | (2S, 4S)-1-N-Dodecyl-4-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]pyrrolidine-2-propanoic Acid, Methyl Ester | 70 mg, 47% | C(CCCCCCCCCCC)N1[C@H](C[C@@H](C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCC(=O)OC | C30H46F3NO4
